US08067621B2
Step 1: 3-{(3-Benzyloxy-propyl)-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-amino}-propan-1-ol
Benzyl 3-bromopropyl ether (7.8475 g, 34.27 mmol) was dissolved in 50 ml of THF then 3-aminopropanol (2.56 g, 34.13 mmol) was added the reaction was stirred at room temperature for three days. The reaction was quenched with 100 ml of Sat. potassium carbonate solution and the solution washed with ethyl acetate. The organic layer washed with Sat. potassium carbonate solution (2×100 mL) then dried over sodium sulfate and concentrated. This amine solution was used without any further purification. The amine solution (3.91 g, 17.5 mmol) was dissolved in 100 ml of THF. 4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2H-chromene (2.0486 g, 5.97 mmol) was added and the reaction was stirred at room temperature overnight. Triethylamine (3 ml) was added and the reaction was stirred at room temperature for 2 h. Then additional amine solution (2.85 g, 12.8 mmol) was added and the reaction was stirred overnight at room temperature then warmed to reflux and stirred overnight. The reaction was quenched with water (100 ml) and washed with ethyl acetate (100 ml). The organic layer was dried over sodium sulfate and concentrated. The product was purified by column using EtOAc/Hex. as the eluent (gradient from 0/100 to 100/0 in 45 minutes). Yield: 570 mg, 17%. 1H NMR (CDCl3 400 MHz) δ7.64-7.59 (m, 2H), 7.45-7.40 (m, 2H), 7.36-7.25 (m, 5H), 7.00 (td, J=9.5, 5.1 Hz, 1H), 6.42 (td, J=8.8, 3.7 Hz, 1H), 4.74 (dd, J=12.4, 5.1 Hz, 1H), 4.65 (s, 1H), 4.42 (s, 2H), 4.32-4.26 (m, 1H), 4.06-4.01 (m, 1H), 3.59 (t, J=5.4 Hz, 2H), 3.41 (t, J=5.9 Hz, 2H), 2.87 (bs, 1H), 2.71-2.53 (m, 3H), 2.50-2.42 (m, 1H), 1.74-1.62 (m, 3H), 1.60-1.50 (m, 1H).

reactant | Benzyl 3-bromopropyl ether | 34.27 mmol, 7.8475 g | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | 3-aminopropanol | 34.13 mmol, 2.56 g | NCCCO | C3H9NO
reactant | 4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2H-chromene | 5.97 mmol, 2.0486 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CCOC2=C(C=CC(=C12)F)F | C15H9ClF2O3S
reactant | Triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-{(3-Benzyloxy-propyl)-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-amino}-propan-1-ol | C(C1=CC=CC=C1)OCCCN(CCCO)C1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F | C28H30ClF2NO5S
